US06908931B2
1-(2-p-fluorophenylethyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline.
A solution of 1-(2-p-fluorophenylethyl)-7-methoxy-3,4-dihydroisoquinoline (1.04 g, 3.67 mmol) in methanol (7 ml) was treated with sodium borohydride (0.56 g, 14.7 mmol) and heated at reflux for one hour. The mixture was cooled and evaporated. The residue was mixed with 1N sodium hydroxide and ethyl acetate and extracted into ethyl acetate. The pooled extracts were washed with saturated sodium chloride, dried, and evaporated to a brown oil (0.59 g, 57%). HPLC-MS (C-18, methanol/water/TFA linear gradient elution, 5 ml/min, 220 nm) single peak at 1.12 min; MS (ES+) obsd m/z=286.34.

reactant | 1-(2-p-fluorophenylethyl)-7-methoxy-3,4-dihydroisoquinoline | 3.67 mmol, 1.04 g | FC1=CC=C(C=C1)CCC1=NCCC2=CC=C(C=C12)OC | C18H18FNO
reactant | sodium borohydride | 14.7 mmol, 0.56 g | [BH4-].[Na+]
solvent | methanol | 7 ml | CO | CH4O
product | 1-(2-p-fluorophenylethyl)-7-methoxy-1,2,3,4-tetrahydroisoquinoline | FC1=CC=C(C=C1)CCC1NCCC2=CC=C(C=C12)OC | C18H20FNO
